US03937719
A solution of 5-methoxysalicylic acid (33.6 g., 0.2 mol) in 300 ml. of hexamethylphosphorustriamide is treated successively with 16 g. of sodium hydroxide in 40 ml. of water and 68.4 g. (0.4 mol) of benzyl bromide. The resulting solution is stirred 14 hours at room temperature, poured into water and extracted with diethyl ether. The ether solution is dried and evaporated to a yellow oil which solidified on standing. Recrystallization from benzenehexane gives the desired 2-benzyloxy-5-methoxy benzoic acid benzyl ester.

reactant | 5-methoxysalicylic acid | 0.2 mol, 33.6 g | COC1=CC=C(C(C(=O)O)=C1)O | C8H8O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzyl bromide | 0.4 mol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
product | 2-benzyloxy-5-methoxy benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=CC(=C1)OC)OCC1=CC=CC=C1)=O | C22H20O4
